US06353006B1
2-Methyl-4-nitroaniline was converted to the 2-methyl-4-nitroformanilide according to Method A3a, Step 1. The formanilide was converted to 2-methyl-4-nitrophenyl isocyanide dichloride according to Method A3a, Step 2. 3-Aminotetrahydro-2H-pyran-3-carboxylic acid was converted to the methyl ester according to Method B1b, Step 1. Methyl 3-aminotetrahydro-2H-pyran-3-carboxylate was reduced to 3-amino-3-(hydroxymethyl)tetrahydro-2H-pyran according to Method B1b, Step 2. The 2-hydroxyethylamine was reacted with isobutyraldehyde according to Method B4c, Step 1 to afford 2-isopropyl-1-aza-3,7-dioxaspiro[4.5]decane. The oxazolidine was reduced to 3-isobutylamino-3-(hydroxymethyl)tetrahydro-2H-pyran. The substituted 2-hydroxyethylamine was converted to 3-isobutylamino-3-(acetylthiomethyl)tetrahydro-2H-pyran according to Method C6c, Step 1. The thioacetate was saponified according to Method C6c, Step 2 to give 3-isobutylamino-3-(thiomethyl)tetrahydro-2H-pyran. The 2-thioethylamine was reacted with 2-methyl-4-nitrophenyl isocyanide dichloride to afford 2-(2-methyl-4-nitrophenylimino-1-isobutyl-1-aza-7-oxa-3-thiaspiro[4.5]decane.

reactant | 2-Methyl-4-nitroaniline | CC1=C(N)C=CC(=C1)[N+](=O)[O-] | C7H8N2O2
reactant | formanilide | C(=O)NC1=CC=CC=C1 | C7H7NO
reactant | 3-Aminotetrahydro-2H-pyran-3-carboxylic acid | NC1(COCCC1)C(=O)O | C6H11NO3
reactant | Methyl 3-aminotetrahydro-2H-pyran-3-carboxylate | NC1(COCCC1)C(=O)OC | C7H13NO3
reactant | 3-amino-3-(hydroxymethyl)tetrahydro-2H-pyran | NC1(COCCC1)CO | C6H13NO2
reactant | 2-hydroxyethylamine | OCCN | C2H7NO
reactant | isobutyraldehyde | C(C(C)C)=O | C4H8O
product | 2-isopropyl-1-aza-3,7-dioxaspiro[4.5]decane | C(C)(C)C1NC2(CO1)COCCC2 | C10H19NO2
